US05811439
The same procedures used in Example 1 were repeated except for using 725 mg of indole-4-carbaldehyde and 2-methoxybenzyl methanesulfonate instead of the benzyl bromide used in Example 1 to give 906 mg of 1-(2-methoxybenzyl)indole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 68%.

reactant | indole-4-carbaldehyde | 725 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 2-methoxybenzyl methanesulfonate | CS(=O)(=O)OCC1=C(C=CC=C1)OC | C9H12O4S
product | 1-(2-methoxybenzyl)indole-4-carbaldehyde | 906 mg | COC1=C(CN2C=CC=3C(=CC=CC23)C=O)C=CC=C1 | C17H15NO2
